US04767768
A mixture of conc. hydrochloric acid (2.4 ml) and conc. sulfuric acid (0.38 ml) was added to a solution of 4-ethyl-2-hydroxy-5-nitrohexanenitrile (1 g) in ether (2 ml) at 0° C. with stirring. The resulting mixture was allowed to stand at room temperature overnight, diluted with cold water, and then extracted with ethyl acetate. The extract was washed with successively with water and 5% aqueous sodium bicarbonate, dried over magnesium sulfate and then evaporated to dryness in vacuo to give 4-ethyl-2-hydroxy-5-nitrohexanamide (0.46 g).

reactant | hydrochloric acid | 2.4 ml | Cl | ClH
reactant | sulfuric acid | 0.38 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-ethyl-2-hydroxy-5-nitrohexanenitrile | 1 g | C(C)C(CC(C#N)O)C(C)[N+](=O)[O-] | C8H14N2O3
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-ethyl-2-hydroxy-5-nitrohexanamide | 0.46 g | C(C)C(CC(C(=O)N)O)C(C)[N+](=O)[O-] | C8H16N2O4
